US08957068B2
A solution of (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one (93 mg, 0.38 mmol) and 1-(4-(piperidin-1-yl)phenyl)ethanamine (410 mg, 2.01 mmol, 5.2 equiv) in DMSO (1 mL) was heated at 110° C. for 2 h. The reaction mixture was diluted with EtOAc (8 mL) and washed with water (30 mL). After separation, the aqueous phase was extracted with EtOAc (3×8 mL). Combined organics were dried over Na2SO4, filtered and concentrated. Silica gel column chromatography (EtOAc/Heptane 10 to 100%) provided (4S)-4-isopropyl-3-(2-((1-(4-(piperidin-1-yl)phenyl)ethyl)amino)pyrimidin-4-yl)oxazolidin-2-one (57 mg) in 36% yield. A mixture of (4S)-4-isopropyl-3-(2-(1-(4-(piperidin-1-yl)phenyl)ethylamino)pyrimidin-4-yl)oxazolidin-2-one was resolved on a column (AD-H 4.6×100 mm) using 5 to 55% MeOH with 0.2% Et2NH in CO2 to give (S)-4-isopropyl-3-(2-((R)-1-(4-(piperidin-1-yl)phenyl)ethylamino)pyrimidin-4-yl)oxazolidin-2-one and (S)-4-isopropyl-3-(2-((S)-1-(4-(piperidin-1-yl)phenyl)ethylamino)pyrimidin-4-yl)oxazolidin-2-one.

reactant | (S)-3-(2-chloropyrimidin-4-yl)-4-isopropyloxazolidin-2-one | 0.38 mmol, 93 mg | ClC1=NC=CC(=N1)N1C(OC[C@@H]1C(C)C)=O | C10H12ClN3O2
reactant | 1-(4-(piperidin-1-yl)phenyl)ethanamine | 2.01 mmol, 410 mg, 5.2 equiv | N1(CCCCC1)C1=CC=C(C=C1)C(C)N | C13H20N2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 8 mL | CCOC(=O)C | C4H8O2
product | (4S)-4-isopropyl-3-(2-((1-(4-(piperidin-1-yl)phenyl)ethyl)amino)pyrimidin-4-yl)oxazolidin-2-one | 57 mg, 36% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)NC(C)C1=CC=C(C=C1)N1CCCCC1 | C23H31N5O2
